US06555577B1
Tetrakis(triphenylphoshine)palladium(0) (0.20 g, 0.18 mmol, 4 mol %) was added, under nitrogen, to a stirred solution of (E)-3-(4-bromophenyl)-but-2-en-1-ol (1.0 g, 4.40 mmol) {prepared as detailed in example 50b} in DME (55 ml), and the resulting orange coloured solution stirred at room temperature for 10 min. Aqueous 2M sodium carbonate (13.2 ml, 26.4 mmol) was then added, the mixture stirred for 10 min, then 5-isopropyl-2-methoxyphenylboronic acid (1.28 g, 6.60 mmol) was added, and the reaction mixture heated to 80° C. for 18 h, under reflux. The reaction mixture was diluted with 1N HCl (100 ml) and the products extracted into ethyl acetate (2×100 ml). The combined organic extracts were washed with brine, dried (MgSO4), and evaporated to give the crude product, which was purified by column chromatography on silica gel (1% methanol in dichloromethane eluent) to give the product, 3-(5′-isopropyl-2′-methoxy-biphenyl-4-yl)-but-2-en-1-ol as a colourless oil; 1.15 g (88%).

reactant | (E)-3-(4-bromophenyl)-but-2-en-1-ol | 4.40 mmol, 1.0 g | BrC1=CC=C(C=C1)/C(=C/CO)/C | C10H11BrO
reactant | sodium carbonate | 26.4 mmol, 2M, 13.2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-isopropyl-2-methoxyphenylboronic acid | 6.60 mmol, 1.28 g | C(C)(C)C=1C=CC(=C(C1)B(O)O)OC | C10H15BO3
solvent | DME | 55 ml | COCCOC | C4H10O2
solvent | HCl | 1N, 100 ml | Cl | ClH
product | 3-(5′-isopropyl-2′-methoxy-biphenyl-4-yl)-but-2-en-1-ol | C(C)(C)C=1C=CC(=C(C1)C1=CC=C(C=C1)C(=CCO)C)OC | C20H24O2
